US05864039
4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.00 g) was dissolved in dichloromethane (25 ml). Triethylamine (0.42 ml) was added, and a solution of benzoyl chloride (0.32 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 14 hr, and insoluble matter was filtered off. The filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.35 g of 4-amino-N-(1-(6-benzoylaminohexyl)-piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.00 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCN)C=C1Cl)OC | C20H33ClN4O2
reactant | Triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.32 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-amino-N-(1-(6-benzoylaminohexyl)-piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 0.35 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCNC(C2=CC=CC=C2)=O)C=C1Cl)OC | C27H37ClN4O3
